US04638000
A mixture of 3(R)-phthalimido-2,3-dihydro-1,5-(5H)-benzothiazepin-4-one (10 g), ethanol (500 ml) and hydrazine hydrate (6.2 g) is refluxed for 1 hour. After ethanol is removed by evaporation under reduced pressure, water (300 ml) is added, and the mixture is extracted with ethyl acetate (400 ml). The extract is washed with 0.1 N sodium hydroxide solution (100 ml×2) and water (100 ml) successively, dried over anhydrous magnesium sulfate and concentrated in vacuo to give 3(R)-amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one (3.75 g) as colorless leaflets.

reactant | 3(R)-phthalimido-2,3-dihydro-1,5-(5H)-benzothiazepin-4-one | 10 g | C1(C=2C(C(N1[C@H]1CSC3=C(NC1=O)C=CC=C3)=O)=CC=CC2)=O | C17H12N2O3S
reactant | hydrazine hydrate | 6.2 g | O.NN
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 3(R)-amino-2,3-dihydro-1,5(5H)-benzothiazepin-4-one | 3.75 g | N[C@H]1CSC2=C(NC1=O)C=CC=C2 | C9H10N2OS
